US07691879B2
Step B Methyl 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylate.
3-cyano-6-methoxy-4-pyridin-2-yl-1,2-dihydroisoquinolin-1-yl trifluoromethanesulfonate (0.267 g, 0.652 mmol), DMF (3.5 mL), MeOH (1.75 mL) and H2O (0.012 mL, 0.652 mmol) were combined in a r.b. flask and bubbled CO through this mixture for 3 min. Triethylamine (0.132 g, 1.305 mmol), dppf (0.072 g, 0.13 mmol) and Pd(OAc)2 (0.015 g, 0.065 mmol) were added to the above mixture and CO was bubbled for 1 min. Stirred under atmospheric CO at 70° C. for 2 h. Cooled to rt. Partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (2×). Combined organic layers were dried over Na2SO4 and concentrated. Purified by flash chromatography: 5% to 70% EA in hexanes. Tan solid (0.067 g, 32%).

reactant | 3-cyano-6-methoxy-4-pyridin-2-yl-1,2-dihydroisoquinolin-1-yl trifluoromethanesulfonate | 0.652 mmol, 0.267 g | FC(S(=O)(=O)OC1NC(=C(C2=CC(=CC=C12)OC)C1=NC=CC=C1)C#N)(F)F | C17H12F3N3O4S
reactant | DMF | 3.5 mL | CN(C)C=O | C3H7NO
reactant | H2O | 0.652 mmol, 0.012 mL | O | H2O
reactant | Triethylamine | 1.305 mmol, 0.132 g | C(C)N(CC)CC | C6H15N
reactant | MeOH | 1.75 mL | CO | CH4O
catalyst | dppf | 0.13 mmol, 0.072 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd(OAc)2 | 0.065 mmol, 0.015 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylate | C(#N)C=1N=C(C2=CC=C(C=C2C1C1=NC=CC=C1)OC)C(=O)OC | C18H13N3O3
